US05736564
h) 1-(2-Hydroxy-4-methoxybenzoyl)-2-(3,4-methylenedioxybenzoyl)-5-prop-1-yloxybenzene
To a solution of 1-(2-benzyloxy-4-methoxybenzoyl)-2-(3,4-methylenedioxybenzoyl)-5-prop-1-yloxybenzene (0.437 g, 0.84 mmol) in a mixture 1:1 ethyl acetate:hexane (20 ml) was added 10% Pd/C (0.040 g) and the mixture was shaken under hydrogen atmosphere at 60 psi for 24 h. The reaction mixture was filtered through a pad of celite and the filtrate dried (MgSO4). After removing the solvent under reduced pressure, flash chromatography of the residue (silica gel, 3:7 ethyl acetate:hexane) afforded the title compound as a pale yellow oil (0.270 g, 72%).

reactant | 1-(2-benzyloxy-4-methoxybenzoyl)-2-(3,4-methylenedioxybenzoyl)-5-prop-1-yloxybenzene | 0.84 mmol, 0.437 g | C(C1=CC=CC=C1)OC1=C(C(=O)C2=C(C=CC(=C2)OCCC)C(C2=CC3=C(C=C2)OCO3)=O)C=CC(=C1)OC | C32H28O7
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.040 g | [Pd] | Pd
solvent | hexane | 20 ml | CCCCCC | C6H14
product | 1-(2-Hydroxy-4-methoxybenzoyl)-2-(3,4-methylenedioxybenzoyl)-5-prop-1-yloxybenzene | 0.270 g, 72% | OC1=C(C(=O)C2=C(C=CC(=C2)OCCC)C(C2=CC3=C(C=C2)OCO3)=O)C=CC(=C1)OC | C25H22O7
